* source FILTER
L_L1         N14552 N14471  1u  
R_Rdamp         N14467 N14471  200 TC=0,0 
R_Rload         0 N14502  5k TC=0,0 
L_L2         N14471 N46457  1.5u  
C_C1         0 N14467  70p  TC=0,0 
V_V1         N14552 0  
+PULSE 0 60 0 3n 3n 2n 20n
R_Rshunt         N46457 N14502  0.1 TC=0,0 
V_V4         VCC_ARROW 0 30
V_V5         VCC 0 -30
R_R2         N49514 N46457  1k TC=0,0 
R_R1         N49541 N14502  1k TC=0,0 
R_R3         N49627 N49541  10k TC=0,0 
R_R4         N49514 0  10k TC=0,0 
X_U4         N49514 N49541 VCC_ARROW VCC N49627 AD8004AN/AD
X_U5         N53122 N53126 VCC_ARROW VCC N53244 AD8004AN/AD
R_R6         N53126 N14502  1.0005k TC=0,0 
R_R8         N53244 N53126  10k TC=0,0 
R_R7         N53122 0  10.005k TC=0,0 
R_R5         N53122 N46457  1.00k TC=0,0 
